US06235680B1
3a. 2-Methoxy-N-(4-sulfamoylphenyl)acetamide
10 g (0.06 mol) of sulfanilamide are suspended in 150 ml of dioxane and 4.6 g (60 mmol) of pyridine are added. 6.3 g (60 mmol) of methoxyacetyl chloride are then added at 0° C., and stirring is continued for 2 hours at room temperature. The mixture is stirred into 200 ml of water, and the precipitate which separates out is filtered off with suction and dried;

reactant | sulfanilamide | 0.06 mol, 10 g | S(=O)(C1=CC=C(C=C1)N)(=O)N | C6H8N2O2S
reactant | pyridine | 60 mmol, 4.6 g | N1=CC=CC=C1 | C5H5N
reactant | methoxyacetyl chloride | 60 mmol, 6.3 g | COCC(=O)Cl | C3H5ClO2
reactant | water | 200 ml | O | H2O
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 2-Methoxy-N-(4-sulfamoylphenyl)acetamide | COCC(=O)NC1=CC=C(C=C1)S(N)(=O)=O | C9H12N2O4S
